**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Power over Ethernet Plus Transformer
* Matchcode:              WE-PoE+
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	750310744		5  3  2  1  6  9		
.param RxLkg=2294.16ohm					
.param Leakage=0.6uh					
Rlkg	5	5a	{RxLkg}		
L_Lkg	5	5a	{Leakage}	Rser=0.01mohm	
Lpri1	5a	3	37.4uH	Rser=90mohm	
Laux1	2	1	38uH	Rser=200mohm	
Lsec1	6	9	6.08uH	Rser=3mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=4.5pf					
.param Rdmp1=145296.6ohm					
Cpri1	5	3	{Cprm1}	Rser=10mohm	
Rdmp1	5	3	{Rdmp1}		
Rg3	5	0	20meg		
Rg5	2	0	20meg		
Rg7	3	0	20meg		
Rg9	1	0	20meg		
Rg11	6	0	20meg		
Rg19	9	0	20meg		
.ends					

.subckt	750310743		5  3  2  1  6  9		
.param RxLkg=2019.71ohm					
.param Leakage=0.625uh					
Rlkg	5	5a	{RxLkg}		
L_Lkg	5	5a	{Leakage}	Rser=0.01mohm	
Lpri1	5a	3	37.375uH	Rser=82mohm	
Laux1	2	1	13.68uH	Rser=160mohm	
Lsec1	6	9	0.855uH	Rser=2mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=6.3pf					
.param Rdmp1=122798.15ohm					
Cpri1	5	3	{Cprm1}	Rser=10mohm	
Rdmp1	5	3	{Rdmp1}		
Rg3	5	0	20meg		
Rg5	2	0	20meg		
Rg7	3	0	20meg		
Rg9	1	0	20meg		
Rg11	6	0	20meg		
Rg19	9	0	20meg		
.ends					

.subckt	750310742		5  3  2  1  6  10		
.param RxLkg=1908.49ohm					
.param Leakage=0.47uh					
Rlkg	5	5a	{RxLkg}		
L_Lkg	5	5a	{Leakage}	Rser=0.01mohm	
Lpri1	5a	3	37.53uH	Rser=85mohm	
Laux1	2	1	11.495uH	Rser=155mohm	
Lsec1	6	10	9.5uH	Rser=25mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=3.99pf					
.param Rdmp1=154303.38ohm					
Cpri1	5	3	{Cprm1}	Rser=10mohm	
Rdmp1	5	3	{Rdmp1}		
Rg3	5	0	20meg		
Rg5	2	0	20meg		
Rg7	3	0	20meg		
Rg9	1	0	20meg		
Rg11	6	0	20meg		
Rg19	10	0	20meg		
.ends					

.subckt	750310927		3  1  5  6  7  8		
.param RxLkg=527.41ohm					
.param Leakage=0.9uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.01mohm	
Lpri1	3a	1	111.1uH	Rser=100mohm	
Laux1	5	6	3.111uH	Rser=60mohm	
Lsec1	7	8	12.444uH	Rser=50mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=65pf					
.param Rdmp1=65632.85ohm					
Cpri1	3	1	{Cprm1}	Rser=10mohm	
Rdmp1	3	1	{Rdmp1}		
Rg3	3	0	20meg		
Rg5	5	0	20meg		
Rg7	1	0	20meg		
Rg9	6	0	20meg		
Rg11	7	0	20meg		
Rg19	8	0	20meg		
.ends					

.subckt	7491194912		1  3  5  6  10  7		
.param RxLkg=515.95ohm					
.param Leakage=0.5uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	41.5uH	Rser=60mohm	
Laux1	5	6	4.667uH	Rser=180mohm	
Lsec1	10	7	4.667uH	Rser=18mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=55.9pf					
.param Rdmp1=43340.07ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	5	0	20meg		
Rg7	3	0	20meg		
Rg9	6	0	20meg		
Rg11	10	0	20meg		
Rg19	7	0	20meg		
.ends					

.subckt	750310926		1  3  5  6  7  8  11  12		
.param RxLkg=570.54ohm					
.param Leakage=0.5uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	39.5uH	Rser=40mohm	
Laux1	5	6	2.5uH	Rser=200mohm	
Lsec1	7	8	1.6uH	Rser=9mohm	
Lsec2	11	12	2.5uH	Rser=200mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=48pf					
.param Rdmp1=45643.57ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	5	0	20meg		
Rg7	3	0	20meg		
Rg9	6	0	20meg		
Rg11	7	0	20meg		
Rg12	11	0	20meg		
Rg19	8	0	20meg		
Rg20	12	0	20meg		
.ends					

.subckt	749119450		1  3  5  6  10  7		
.param RxLkg=625.59ohm					
.param Leakage=0.8uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	64.3uH	Rser=100mohm	
Laux1	5	6	11.957uH	Rser=200mohm	
Lsec1	10	7	1.329uH	Rser=3mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=62.8pf					
.param Rdmp1=50907.31ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	5	0	20meg		
Rg7	3	0	20meg		
Rg9	6	0	20meg		
Rg11	10	0	20meg		
Rg19	7	0	20meg		
.ends					

.subckt	7491194501		1  3  5  6  10  7		
.param RxLkg=765.56ohm					
.param Leakage=0.8uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	41.2uH	Rser=90mohm	
Laux1	5	6	4.339uH	Rser=170mohm	
Lsec1	10	7	0.857uH	Rser=5mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=65pf					
.param Rdmp1=40191.81ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	5	0	20meg		
Rg7	3	0	20meg		
Rg9	6	0	20meg		
Rg11	10	0	20meg		
Rg19	7	0	20meg		
.ends					

.subckt	749119433		1  3  5  6  10  7		
.param RxLkg=3401.55ohm					
.param Leakage=3uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	39uH	Rser=99mohm	
Laux1	5	6	3.857uH	Rser=220mohm	
Lsec1	10	7	0.347uH	Rser=3.2mohm	
K Lpri1  Laux1  Lsec1        1					
.param Cprm1=46.3pf					
.param Rdmp1=47621.74ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	5	0	20meg		
Rg7	3	0	20meg		
Rg9	6	0	20meg		
Rg11	10	0	20meg		
Rg19	7	0	20meg		
.ends					

.subckt	750310925		1  3  5  6  7  8  11  12		
.param RxLkg=1049.42ohm					
.param Leakage=1.2uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	55.8uH	Rser=60mohm	
Laux1	5	6	3.563uH	Rser=350mohm	
Lsec1	7	8	0.891uH	Rser=8mohm	
Lsec2	11	12	3.563uH	Rser=350mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=57.35pf					
.param Rdmp1=49847.22ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	5	0	20meg		
Rg7	3	0	20meg		
Rg9	6	0	20meg		
Rg11	7	0	20meg		
Rg12	11	0	20meg		
Rg19	8	0	20meg		
Rg20	12	0	20meg		
.ends					
